US07754747B2
1-Benzyl-3-[5-(6-methoxy-2-naphthyl)-1,3-oxazol-2-yl]-1H-indole 1-Benzyl-N-[2-(6-methoxy-2-naphthyl)-2-oxoethyl]-1H-indole-3-carboxamide (4.31 g, 9.61 mmol), prepared in the previous step, in 200 ml of POCl3 was refluxed for 4 h. As the reaction cooled to room temperature a solid precipitated. The solid was collected by filtration and then allowed to air dry overnight. The solid was taken up in 90% CH2Cl2/CH3OH, extracted three times with 5% NaHCO3, dried (MgSO4), filtered and the solvent was removed under reduced pressure to give 1-benzyl-3-[5-(6-methoxy-2-naphthyl)-1,3-oxazol-2-yl]-1H-indole (3.09 g, 75%) as an off-white solid, mp 198-199° C. Elemental Analysis for C29H22N2O2 Calc'd: C, 80.91; H, 5.15; N, 6.51. Found: C, 78.79; H, 5.25; N, 6.16.

reactant | 1-Benzyl-3-[5-(6-methoxy-2-naphthyl)-1,3-oxazol-2-yl]-1H-indole 1-Benzyl-N-[2-(6-methoxy-2-naphthyl)-2-oxoethyl]-1H-indole-3-carboxamide | 9.61 mmol, 4.31 g | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C(=O)NCC(=O)C1=CC2=CC=C(C=C2C=C1)OC.C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C=1OC(=CN1)C1=CC2=CC=C(C=C2C=C1)OC
solvent | POCl3 | 200 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 1-benzyl-3-[5-(6-methoxy-2-naphthyl)-1,3-oxazol-2-yl]-1H-indole | 3.09 g, 75% | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C=1OC(=CN1)C1=CC2=CC=C(C=C2C=C1)OC | C29H22N2O2
